US06005103
3-(1-Cyclopentylthio-2-cyclopropylethyl)-6-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-4-hydroxy-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-2H-pyran-2-one (1.00 g, 4.06 mmol), ethanol (15 mL), cyclopropylmethylcarboxaldehyde (0.34 g, 4.06 mmol), cyclopentylthiol (0.83 g, 8.12 mmol), piperidine (1.0 mL), acetic acid (1.0 mL). m.p. 80-82° C.; 1H NMR (400 MHz, DMSO-d6) δ0.03 (m, 2H), 0.33 (m, 2H), 0.64 (m, 1H), 1.28-1.74 (m, 7H), 1.83-2.06 (m, 3H), 3.06 (m, 1H), 4.2 (m, 1H), 4.31 (m, 4H), 6.53 (s, 1H), 7.0 (d, 1H), 7.24 (d, 1H), 7.24 (dd, 2H).

reactant | 4-hydroxy-6-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-2H-pyran-2-one | 4.06 mmol, 1.00 g | OC1=CC(OC(=C1)C1=CC2=C(OCCO2)C=C1)=O | C13H10O5
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | cyclopentylthiol | 8.12 mmol, 0.83 g | C1CCC(C1)S | C5H10S
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 3-(1-Cyclopentylthio-2-cyclopropylethyl)-6-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-4-hydroxy-2H-pyran-2-one | C1(CCCC1)SC(CC1CC1)C=1C(OC(=CC1O)C1=CC2=C(OCCO2)C=C1)=O | C23H26O5S
